US09085555B2
A. 1-tert-Butoxycarbonylmethyl-6-methoxy-1H-indole-3-carboxylic acid
To an ice-cooled suspension of 6-methoxy-1H-indole-3-carboxylic acid (1 g, 5.23 mmol) in DMF (35 mL) was added NaH (60% suspension in oil; 0.523 g, 13.1 mmol) in one portion, and the mixture was stirred at 0° C. for 30 min. Tert-butyl-2-bromoacetate (0.85 mL, 5.75 mmol) was then added dropwise, and stirring was continues at RT overnight. The reaction mixture was neutralized by addition of saturated NH4Cl, and the solution was then adjusted to pH=2-3 by addition of 0.1N HCl. The aqueous layer was repeatedly extracted with CH2Cl2, the combined organics were washed with brine, dried (phase separator) and concentrated in vacuo. The residue was dissolved in a small volume of methanol, followed by addition of water until a solid precipitated. The precipitate was filtered off, washed with water and dried in vacuo to afford the title compound as a white solid. MS (LC/MS): 306 [M+H]+, 328 [M+Na]+; tR (HPLC conditions c): 4.67 min.

reactant | 6-methoxy-1H-indole-3-carboxylic acid | 5.23 mmol, 1 g | COC1=CC=C2C(=CNC2=C1)C(=O)O | C10H9NO3
reactant | NaH | 13.1 mmol, 0.523 g | [H-].[Na+]
reactant | Tert-butyl-2-bromoacetate | 5.75 mmol, 0.85 mL | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | NH4Cl | [NH4+].[Cl-]
reactant | HCl | 0.1N | Cl | ClH
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | 1-tert-Butoxycarbonylmethyl-6-methoxy-1H-indole-3-carboxylic acid | C(C)(C)(C)OC(=O)CN1C=C(C2=CC=C(C=C12)OC)C(=O)O | C16H19NO5
